US08049016B2
Preparation of 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colourless solid in 87% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.8 (s, 1H), 4.02-3.97 (m, 2H), 3.59-3.54 (m, 2H), 3.33-3.29 (m, 2H), 2.50 (s, 3H), 2.35-2.26 (m, 2H), 1.79-1.69 (m 2H); MS (ES+) m/z 338.1 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCCC(F)(F)F)=O | C14H18F3N3O3S
product | 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 87% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC(F)(F)F)=O | C12H14F3N3O3S
